US04859662
1,2,3,9-Tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-9-(2-propynyl)-4H-carbazol-4-one
Propargyl bromide (0.086 ml) was added to a suspension of 1,2,3,9-tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one (500 mg) and potassium carbonate (265 mg) in acetone (10 ml) and the mixture was stirred under nitrogen for 60 h. More propargyl bromide (0.086 ml) was added and the mixture was stirred at room temperature for 24 h and then at reflux for 6 h. Water (50 ml) was added and the suspension was extracted with dichloromethane (3×25 ml). The combined, dried organic extracts were evaporated to give a gum (650 mg) which was purified by FCC (column made up in ethyl acetate:hexane:triethylamine 80:19:1) eluting with ethyl acetate:hexane (4:1) to give the title compound (95 mg) as a foam, t.l.c. on Et3N impregnated SiO2 (ethyl acetate:hexane 4:1) Rf 0.30.

reactant | Propargyl bromide | 0.086 ml | C(C#C)Br | C3H3Br
reactant | 1,2,3,9-tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one | 500 mg | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1CCC=2NC3=CC=CC=C3C2C1=O | C36H31N3O
reactant | potassium carbonate | 265 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 0.086 ml | C(C#C)Br | C3H3Br
reactant | Water | 50 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1,2,3,9-Tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-9-(2-propynyl)-4H-carbazol-4-one | 650 mg | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1CCC=2N(C3=CC=CC=C3C2C1=O)CC#C | C39H33N3O
